US08609698B2
2-Hydrazino-5-(methylsulfonyl)pyridine
1.7 ml (1.7 g, 34.0 mmol) of hydrazine hydrate are added to 2.0 g (8.5 mmol) of 2,5-bis(methylsulfonyl)pyridine [Woods et al., J. Heterocycl. Chem. 1984, 21, 97-101] in 15 ml of ethanol, and the mixture is stirred under reflux for 4 h. For work-up, the reaction solution is cooled to 15° C., the precipitated solid is filtered off, the filter residue is washed with ethanol and diethyl ether and the product is dried under reduced pressure.

reactant | hydrazine hydrate | 34.0 mmol, 1.7 ml, 1.7 g | O.NN
reactant | 2,5-bis(methylsulfonyl)pyridine | 8.5 mmol, 2.0 g | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-Hydrazino-5-(methylsulfonyl)pyridine | N(N)C1=NC=C(C=C1)S(=O)(=O)C | C6H9N3O2S
